US07732435B2
3-Bromo-7-hydroxy-2-isopropyl-chromen-4-one
2-Bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-4-(4-methoxy-benzyloxy)-phenyl]-4-methyl-pentane-1,3-dione (6.77 g, 12.65 mmol) is dissolved in absolute ethanol (350 ml) at 50° C. Concentrated sulfuric acid (16 ml) is added dropwise. The mixture is stirred at 50° C. for 16 hours, after which time further 0.5 ml of concentrated sulfuric acid are added. The stirring is continued for a further 4 hours at 50° C. The reaction mixture is cooled to room temperature, and most of the ethanol is removed under reduced pressure. Water (400 ml) is added to the residue, and the colourless solid formed is recovered by filtration and dried in a desiccator. This material is not pure enough for subsequent use, so it is partitioned between water and ethyl acetate and extracted with ethyl acetate (3×100 ml). The ethyl acetate extracts are combined, washed with saturated brine (100 ml), dried (MgSO4), treated with activated charcoal (300 mg), filtered and concentrated, until crystallization commences. After standing at 4° C. for 16 h, the crystals are recovered by filtration, washed with n-hexane and dried.

reactant | 2-Bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-4-(4-methoxy-benzyloxy)-phenyl]-4-methyl-pentane-1,3-dione | 12.65 mmol, 6.77 g | BrC(C(=O)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)O[Si](C)(C)C(C)(C)C)C(C(C)C)=O | C26H35BrO5Si
reactant | sulfuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 3-Bromo-7-hydroxy-2-isopropyl-chromen-4-one | BrC1=C(OC2=CC(=CC=C2C1=O)O)C(C)C | C12H11BrO3
